US05100897
2-n-Butyl-3-(2'-carboxybiphen-4-yl)methylpyrimidin-4(3H)-one
The title compound is prepared form N-(2'-t-butoxycarbonylbiphen-4-yl)methylvaleramidine and ethyl 3-ethoxyacrylate (Aldrich) similarly to that in Example 10. The t-butyl ester is hydrolyzed in neat trifluoroacetic acid to give the title compound.

reactant | N-(2'-t-butoxycarbonylbiphen-4-yl)methylvaleramidine | C(C)(C)(C)OC(=O)C1=C(C2=CC=C(C=C2)CNC(CCCC)=N)C=CC=C1 | C23H30N2O2
reactant | ethyl 3-ethoxyacrylate | C(C)OC=CC(=O)OCC | C7H12O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-n-Butyl-3-(2'-carboxybiphen-4-yl)methylpyrimidin-4(3H)-one | C(CCC)C1=NC=CC(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O | C22H22N2O3
